US04195021
Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate
To a solution of 4.1 ml of 1,5-diazabicyclo[5.4.0]undecene-5 (DBU) and 1.6 ml of bromine in 90 ml of tetrahydrofuran (THF) at -78° was added 4.36 g (9.0 mmol) of benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-3-butenoate in 20 ml of THF. The reaction mixture was placed in an ice bath and stirred for 20 minutes. Sodium bisulfite (3 g) in 30 ml of water was then added. After 10 min. the THF was removed under reduced pressure. Ethyl acetate was added to the resulting aqueous mixture. The organic layer was washed with dilute acid, sodium bicarbonate solution and brine (2X), dried, and evaporated in vacuo to provide 3.6 g (77%) of the title product: nmr (CDCl3) δ 2.13 and 2.28 (s, 3, CH3), 4.2 (m, 2, --CH2Br), 3.67 (m, 2, C4 --H), 4.97 (m, 1, C3 --H), 4.50 (s, 2, side chain CH2), and 7.2 (b, ArH).

reactant | bromine | 1.6 ml | BrBr | Br2
reactant | benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-3-butenoate | 9.0 mmol, 4.36 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(=C)C)=O | C29H28N2O5
reactant | Sodium bisulfite | 3 g | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | Benzhydryl 2-(3-phenoxyacetamido-2-oxoazetidin-1-yl)-3-methyl-4-bromo-2-butenoate | 3.6 g, 77% | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CBr)C)=O | C29H27BrN2O5
